US07897012B2
A sodium orthosilicate aqueous solution (concentration 0.1 mol/L) and aluminum chloride (concentration 0.15 mol/L) were added in equivalent amounts with fully stirring. Further, 1N sodium hydroxide was gradually added to attain a pH of 6, the mixture was fully washed with water, and IN hydrochloric acid was added to attain a pH of 4. The mixture was heated at 100° C. for 2 days to give amorphous aluminum silicate. Washing with water was again carried out to remove a superfluous ion component, and then centrifugal separation was carried out to give a slurry of 20% concentrated amorphous silicate having a tubular structure (to be referred to as “moisture adsorbent (a-II)” hereinafter). Part of the slurry was dried to obtain moisture adsorbent (a-II) in the form of a powder, and the powder was measured for a specific surface area according to a BET method to show that it had a specific surface area of 450 m2/g.

reactant | sodium orthosilicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | aluminum silicate | [Si]([O-])([O-])([O-])[O-].[Al+3].[Si]([O-])([O-])([O-])[O-].[Si]([O-])([O-])([O-])[O-].[Al+3].[Al+3].[Al+3] | InChI=1S/4Al.3O4Si/c;;;;3*1-5(2,3)4/q4*+3;3*-4
